US06191124B1
Magnesium (0.29 g, 12 g atom) in THF (60 mL) was treated with (2-bromoethyl)-benzene (1.64 mL) and reacted for 18 hours. The suspension was treated with solid 7-Methyl-imidazo [2,1-b]benzothiazole-3-carboxaldehyde (Formula K-3) (0.65 g) and reacted for 2 hours. The reaction mixture was decanted into cold 5% ammonium chloride solution and precipitated 7-Methyl-α-(2-phenylethyl)imidazo[2,1-b]benzothiazole-3-methanol (Formula K-4) (0.96 g) was filtered. An aliquot was crystallized from methylene chloride/ethanol solution to yield pure 7-Methyl-α-(2-phenylethyl) imidazo[2,1-b]benzothiazole-3-methanol (Formula K-4), m.p. 209-210°.

reactant | Magnesium | 0.29 g | [Mg] | Mg
reactant | (2-bromoethyl)-benzene | 1.64 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 7-Methyl-imidazo [2,1-b]benzothiazole-3-carboxaldehyde | 0.65 g | CC1=CC2=C(N3C(S2)=NC=C3C=O)C=C1 | C11H8N2OS
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 7-Methyl-α-(2-phenylethyl) imidazo[2,1-b]benzothiazole-3-methanol | CC1=CC2=C(N3C(S2)=NC=C3C(O)CCC3=CC=CC=C3)C=C1 | C19H18N2OS
